US08183381B2
Step 1: 4-(3-Methoxycarbonyl-[1,2,4]triazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 1H-[1,2,4]triazole-3-carboxylic acid ethyl ester (1.05 g, 8.23 mmol) in dimethylformamide (50 mL) was added sodium hydride (60%, 0.395 g, 9.88 mmol). The solution was stirred at room temperature for 20 minutes followed by 1 hour at 70° C. 4-methanesulfonyloxy-piperidine-1-carboxylic acid tert-butyl ester (2.3 g, 8.23 mmol) was then added in a single portion and heated at 70° C. for 40 hours. The solution was cooled to 0° C. and the salt precipitate was removed by filtration. The filtrate was diluted with dichloromethane and washed with water, brine, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by flash chromatograph on silica gel with Hexanes and EtOAc to afford the desired product. 1H NMR (CDCl3): δ 8.18 (1H, s), 4.40 (1H, m), 4.22 (2H, m), 3.96 (3H, s), 2.82 (2H, m), 2.12 (2H, m), 1.94 (2H, m), 1.41 (9H, s).

reactant | 1H-[1,2,4]triazole-3-carboxylic acid ethyl ester | 8.23 mmol, 1.05 g | C(C)OC(=O)C1=NNC=N1 | C5H7N3O2
reactant | sodium hydride | 9.88 mmol, 0.395 g | [H-].[Na+]
reactant | 4-methanesulfonyloxy-piperidine-1-carboxylic acid tert-butyl ester | 8.23 mmol, 2.3 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OS(=O)(=O)C | C11H21NO5S
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 4-(3-Methoxycarbonyl-[1,2,4]triazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=C(N=C1)C(=O)OC | C14H22N4O4
